US07479502B2
Proceeding as in Reference 23, but substituting 3′-tert-butylsulfamoyl-5-formyl-6-(2-methoxyethoxymethoxy)-biphenyl-3-carboxylic acid methyl ester (1.64 g, 3.42 mmol, 1.0 eq.) and 3,4-diamino-benzamidine hydrochloride (638 mg, 3.42 mmol, 1.0 eq.), gave 5-(5-carbamimidoyl-1H-benzoimidazol-2-yl)-6-hydroxy-3′-sulfamoyl-biphenyl-3-carboxylic acid hydrochloride (650 mg) as a brown solid.

reactant | 3′-tert-butylsulfamoyl-5-formyl-6-(2-methoxyethoxymethoxy)-biphenyl-3-carboxylic acid methyl ester | 3.42 mmol, 1.64 g, 1.0 eq. | COC(=O)C=1C=C(C(=C(C1)C=O)OCOCCOC)C1=CC(=CC=C1)S(NC(C)(C)C)(=O)=O | C23H29NO8S
reactant | 3,4-diamino-benzamidine hydrochloride | 3.42 mmol, 638 mg, 1.0 eq. | Cl.NC=1C=C(C(=N)N)C=CC1N
product | 5-(5-carbamimidoyl-1H-benzoimidazol-2-yl)-6-hydroxy-3′-sulfamoyl-biphenyl-3-carboxylic acid hydrochloride | 650 mg | Cl.C(N)(=N)C1=CC2=C(NC(=N2)C=2C=C(C=C(C2O)C2=CC(=CC=C2)S(N)(=O)=O)C(=O)O)C=C1 | InChI=1S/C21H17N5O5S.ClH/c22-19(23)11-4-5-16-17(9-11)26-20(25-16)15-8-12(21(28)29)7-14(18(15)27)10-2-1-3-13(6-10)32(24,30)31;/h1-9,27H,(H3,22,23)(H,25,26)(H,28,29)(H2,24,30,31);1H
